US06593350B2
2-{[4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl]methyl}-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indole
A solution of 0.30 g (0.84 mmole) of (2R)-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-ylmethyl 4-methylbenzenesulfonate and 0.40 g (1.8 mmole) of 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole in 30 mL of DMSO was heated at 65° C. for 4 hours. The mixture was diluted with 300 mL of ethyl acetate, washed with 200 ml portions of saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on silica gel with 0-1.5% methanol in methylene chloride as eluant. The product fractions were combined and concentrated in vacuum, and the residue triturated with ether/hexane (1:1) to give 0.10 g of the (S)-enantiomer of the title compound as a yellow solid, m.p. 112° C., with one-quarter mole of ether.

reactant | (2R)-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-ylmethyl 4-methylbenzenesulfonate | 0.84 mmole, 0.30 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CNC3=CC2)O1 | C18H17NO5S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 1.8 mmole, 0.40 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-{[4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl]methyl}-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indole | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1COC=2C(=C3C=CNC3=CC2)O1 | C24H22FN3O2
